US20010016207A1
C. [4-(2-methoxy-ethyl)-piperazin-1-yl]-benzoic acid methyl ester
4-(Piperazin-1-yl)-benzoic acid methyl ester (19 mmol), 2-bromoethylmethylether (21 mmol), and potassium carbonate (22.8 mmol) are suspended in acetonitrile (50 ml) and stirred at 80° C. for 8 hours. After evaporation of the solvent, the residue is dissolved in water and extracted three times with CH2Cl2. The extract is dried over sodium sulfate and evaporated. The residue is suspended in diethylether/pentane and the solid filtered of and dried (vacuum). A powder with mp. 103-105° C. is obtained.

reactant | 4-(Piperazin-1-yl)-benzoic acid methyl ester | 19 mmol | COC(C1=CC=C(C=C1)N1CCNCC1)=O | C12H16N2O2
reactant | 2-bromoethylmethylether | 21 mmol | BrCCOC | C3H7BrO
reactant | potassium carbonate | 22.8 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
product | [4-(2-methoxy-ethyl)-piperazin-1-yl]-benzoic acid methyl ester | COC(C1=C(C=CC=C1)N1CCN(CC1)CCOC)=O | C15H22N2O3
